US07465726B2
(3-Chloro-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride
A suspension of 4-[4-(3-chloro-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (45.4 mg, 0.0945 mmol, 1 eq) in 4.0 M of HCl in 1,4-dioxane (3.25 mL, 140 eq) was allowed to stir at rt for 2 h. The reaction was concentrated in vacuo to dryness, affording the title compound, as a yellow solid. 1H NMR (400 MHz, MeOH-d4): δ=2.83 (s, br, 2H), 3.52 (t, J=6.0 Hz, 2H), 3.95 (s, br, 2H), 6.44 (s, 1H), 6.83 (s, br, 1H), 7.56 (d, J=8.8 Hz, 1H), 7.75 (dd, J=8.8, 0.8 Hz, 1H), 8.19 (s, 1H), 8.28 (d, J=0.8 Hz, 1H). MS (ES+): m/z 365.98/368.00 (20/8) [MH+]. HPLC: tR=0.48 & 1.56 min (ZQ2000, polar—5 min).

reactant | 4-[4-(3-chloro-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.0945 mmol, 45.4 mg, 1 eq | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)Cl)N1 | C23H24ClN7O2
reactant | 1,4-dioxane | 3.25 mL, 140 eq | O1CCOCC1 | C4H8O2
solvent | HCl | 4.0 M | Cl | ClH
product | (3-Chloro-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | Cl.Cl.Cl.ClC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2 | InChI=1S/C18H16ClN7.3ClH/c19-16-12-7-11(1-2-14(12)25-26-16)23-17-13-8-15(10-3-5-20-6-4-10)24-18(13)22-9-21-17;;;/h1-3,7-9,20H,4-6H2,(H,25,26)(H2,21,22,23,24);3*1H
